US04184040
4.4 g. of 3-[(4-fluorobenzoyl)-oxymethyl]-pyridine hydrochloride prepared according to Example 1 (a) are dissolved in 40 ml. of acetone and 3 g. of methyl iodide are added thereto. The reaction mixture is refluxed for 30 minutes and then cooled to 0° C. The precipitated quaternary salt is separated by filtration and recrystallized from 100 ml. of anhydrous ethanol. 4.2 g. of 3-[(4-fluorobenzoyl)-oxymethyl]-pyridine methyliodide (60% of theoretical yield) are obtained; m.p.: 132°-133° C.

reactant | 3-[(4-fluorobenzoyl)-oxymethyl]-pyridine hydrochloride | Cl.FC1=CC=C(C(=O)OCC=2C=NC=CC2)C=C1
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 3-[(4-fluorobenzoyl)-oxymethyl]-pyridine methyliodide | 60% | CI.FC1=CC=C(C(=O)OCC=2C=NC=CC2)C=C1 | InChI=1S/C13H10FNO2.CH3I/c14-12-5-3-11(4-6-12)13(16)17-9-10-2-1-7-15-8-10;1-2/h1-8H,9H2;1H3
